US07763750B2
Production of N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-(2,3,4-trichlorophenyl)-1,2-benzenedicarboxamide
Phthaloyl dichloride (100.0 g) was added dropwise to a mixture of aqueous sodium hydroxide solution (40.39 g/300 mL), 2-methyl-1-methylthio-2-propanamine (61.66 g) and chloroform (300 mL) at 25° C. or lower. After completion of the dropwise addition, the resulting mixture was stirred at 20° C. for 30 minutes and the organic layer was separated to prepare a solution of N-[1,1-dimethyl-2-(methylthio)ethyl]isophthalimide in 1,2-dichloroethane. The previously prepared isophthalimide solution was added dropwise to a mixture of 2,3,4-trichloroaniline (91.93 g), p-toluenesulfonic acid monohydrate (2.34 g) and chloroform (75 mL) at 60° C. and then stirred for 30 minutes. Subsequently, formic acid (2.27 g) was added thereto and then 35% hydrogen peroxide (52.66 g) was slowly dropped thereinto with heating under reflux. Thereafter, the resulting mixture was stirred at 60° C. for 3 hours. An aqueous sodium sulfite solution was added dropwise to the thus obtained reaction mixture at the same temperature to decompose the excess oxidizing agent. Then, the resulting mixture was neutralized with an aqueous sodium hydrogencarbonate solution, after which the organic layer was separated. The organic layer obtained was heated at 60° C. Heptane (800 mL) was added dropwise thereto and the resulting mixture was slowly cooled to 20° C. The crystals precipitated were filtered, washed with water and then dried to obtain 202.44 g (yield 89%) of the title compound.

reactant | Phthaloyl dichloride | 100.0 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
reactant | sodium hydroxide | 300 mL, 40.39 g | [OH-].[Na+]
reactant | 2-methyl-1-methylthio-2-propanamine | 61.66 g | CC(CSC)(C)N | C5H13NS
reactant | isophthalimide | C1(C2=CC(C(N1)=O)=CC=C2)=O | C8H5NO2
reactant | 2,3,4-trichloroaniline | 91.93 g | ClC1=C(N)C=CC(=C1Cl)Cl | C6H4Cl3N
reactant | hydrogen peroxide | 52.66 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | p-toluenesulfonic acid monohydrate | 2.34 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Heptane | 800 mL | CCCCCCC | C7H16
solvent | formic acid | 2.27 g | C(=O)O | CH2O2
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | N2-[1,1-dimethyl-2-(methyl-sulfinyl)ethyl]-N1-(2,3,4-trichlorophenyl)-1,2-benzenedicarboxamide | 202.44 g, yield 89% | CC(CS(=O)C)(C)NC(=O)C=1C(=CC=CC1)C(=O)NC1=C(C(=C(C=C1)Cl)Cl)Cl | C19H19Cl3N2O3S
